US08541418B2
To a suspension of sodium hydride (3.07 g, 76.75 mmol) in 100 mL of anhydrous THF cooled to 0° C. under N2 (g) inlet was added 1-(1H-pyrazole-5-yl)ethan-1-one hydrochloride (3.09 g, 21.08 mmol). After warming to rt over 1 h, a solution of 2-(trimethylsilyl)ethoxymethyl chloride (4.5 mL, 25.43 mmol) in 100 mL of anhydrous THF was added to the reaction flask via cannulation. The reaction was quenched with water and extracted with EtOAc after 2 h. The organic phase was collected, dried with sodium sulfate, filtered and concentrated under reduced pressure followed by purification by flash chromatography (silica, 50:50 EtOAc/hexane) to give 1-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-5-yl)ethanone. LCMS; 241.1 m/z (M+H)+.

reactant | sodium hydride | 76.75 mmol, 3.07 g | [H-].[Na+]
reactant | 1-(1H-pyrazole-5-yl)ethan-1-one hydrochloride | 21.08 mmol, 3.09 g | Cl.N1N=CC=C1C(C)=O
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 25.43 mmol, 4.5 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-5-yl)ethanone | C[Si](CCOCN1N=CC=C1C(C)=O)(C)C | C11H20N2O2Si
